US04788186
6-(4-methoxyphenyl)-3-(1-pyrrolidinyl)-1,2,4-triazolo[3,4-a]phthalazine
A mixture of 6-(4-methoxyphenyl)-3-(methylsulfinyl)-1,2,4-triazolo[3,4-a]phthalazine (3.5 g) and pyrrolidine (30 ml) is heated to 120°/140° C. in a steel bomb for 16 hours. The mixture is then cooled, and the excess of the amine is evaporated off yielding a residue which is washed carefully with a small amount of water and crystallized from 70% ethanol. Yield: 45%. M.p. 196°-98° C.

reactant | 6-(4-methoxyphenyl)-3-(methylsulfinyl)-1,2,4-triazolo[3,4-a]phthalazine | 3.5 g | COC1=CC=C(C=C1)C1=NN2C(C3=CC=CC=C13)=NN=C2S(=O)C | C17H14N4O2S
reactant | pyrrolidine | 30 ml | N1CCCC1 | C4H9N
product | 6-(4-methoxyphenyl)-3-(1-pyrrolidinyl)-1,2,4-triazolo[3,4-a]phthalazine | Yield: 45% | COC1=CC=C(C=C1)C1=NN2C(C3=CC=CC=C13)=NN=C2N2CCCC2 | C20H19N5O
